US04492702
3-(n-Butyl)-4-[ 2-(2-hydroxyethoxy)ethoxy]-1-phenyl-1,8-naphthyridin-2(1H)one
To a mixture of 6.8 g. of 3-(n-Butyl)-4-(2-hydroxyethoxy)-1-phenyl-1,8-naphthyridin-2(1H)one and 150 ml of anhydrous dioxane is added 0.8 g. of sodium hydride (60% oil dispersion) with stirring. The reaction mixture is stirred and warmed on a steam bath for 30 minutes, followed by dropwise addition of 2.6 g. of 95% 2-bromoethanol. The reaction mixture is stirred and refluxed for 24 hours, the solvent is removed in vacuo and the residual solid is dissolved in chloroform. The chloroform solution is successively washed with water, 0.5N sodium hydroxide and water, the organic layer is dried over magnesium sulfate, filtered and concentrated to dryness to yield the product of this example.

reactant | 3-(n-Butyl)-4-(2-hydroxyethoxy)-1-phenyl-1,8-naphthyridin-2(1H)one | C(CCC)C=1C(N(C2=NC=CC=C2C1OCCO)C1=CC=CC=C1)=O | C20H22N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromoethanol | BrCCO | C2H5BrO
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3-(n-Butyl)-4-[ 2-(2-hydroxyethoxy)ethoxy]-1-phenyl-1,8-naphthyridin-2(1H)one | C(CCC)C=1C(N(C2=NC=CC=C2C1OCCOCCO)C1=CC=CC=C1)=O | C22H26N2O4
